US07601716B2
(3-{1-[5-Chloro-2-(trifluoromethyl)benzyl]-1,2,3,4-tetrahydropyrido[2,3-b]pyrazin-7-yl}phenyl)-[4-(1H-indol-3-yl)piperidin-1-yl]methanone
3-{1-[5-chloro-2-(trifluoromethyl)benzyl]-1,2,3,4-tetrahydropyrido[2,3-b]pyrazin-7-yl}benzoic acid was reacted with 4-(1H-indol-3-yl)piperidine as in General Procedure 10 to give the title compound. LCMS: m/z=630.02 (M+H+); retention time=0.98 minutes.

reactant | 3-{1-[5-chloro-2-(trifluoromethyl)benzyl]-1,2,3,4-tetrahydropyrido[2,3-b]pyrazin-7-yl}benzoic acid | ClC=1C=CC(=C(CN2C3=C(NCC2)N=CC(=C3)C=3C=C(C(=O)O)C=CC3)C1)C(F)(F)F | C22H17ClF3N3O2
reactant | 4-(1H-indol-3-yl)piperidine | N1C=C(C2=CC=CC=C12)C1CCNCC1 | C13H16N2
product | (3-{1-[5-Chloro-2-(trifluoromethyl)benzyl]-1,2,3,4-tetrahydropyrido[2,3-b]pyrazin-7-yl}phenyl)-[4-(1H-indol-3-yl)piperidin-1-yl]methanone | ClC=1C=CC(=C(CN2C3=C(NCC2)N=CC(=C3)C=3C=C(C=CC3)C(=O)N3CCC(CC3)C3=CNC2=CC=CC=C32)C1)C(F)(F)F | C35H31ClF3N5O
